US04360680
3-Amino-1,5-diphenyl-2-pyrazoline
A 2.0 g. amount of sodium metal is dissolved in 150 ml. of absolute ethanol, then 40.0 ml. of phenylhydrazine is added followed in 5 minutes by 48.0 ml. of cinnamonitrile. The reaction mixture is refluxed for 3 hours with exothermic crystallization of a product. The product is collected by filtration and washed with water. The material is recrystallized from absolute ethanol to give 56.0 g. of the desired product as a solid, m.p. 195°-197° C.

reactant | sodium | [Na] | Na
reactant | phenylhydrazine | C1(=CC=CC=C1)NN | C6H8N2
reactant | cinnamonitrile | C(C=CC1=CC=CC=C1)#N | C9H7N
solvent | ethanol | C(C)O | C2H6O
product | 3-Amino-1,5-diphenyl-2-pyrazoline | NC1=NN(C(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H15N3
